US07838499B2
Preparation of 4-(5-bromo-2-chlorobenzyl)phenethyl acetate (Intermediate BG)
A mixture of 4-(5-bromo-2-chlorobenzoyl)phenethyl acetate (intermediate BF) (1 g, 2.62 mmol), borontrifluoride diethylether (0.65 mL, 10.4 mmol) and triethylsilane (0.84 mL, 10.4 mmol) was heated at 85° C. for 2 h in a sealed tube. The reaction vessel was cooled to room temperature and ice-water (50 mL) was added. The product was extracted with ethyl acetate (2×25 mL), washed with brine (25 mL), dried (Na2SO4), filtered and evaporated. Purification on silica gel using an ISCO column with 5% ethyl acetate in hexane gave intermediate BG (620 mg, yield 65%). 1H NMR (300 MHz, CDCl3): δ 7.27-7.10 (m, 7H), 4.27 (t, J=6.9, 7.2 Hz, 2H), 4.03 (s, 2H), 2.92 (t, J=6.9, 7.2 Hz, 2H), 2.05 (s, 3H).

reactant | 4-(5-bromo-2-chlorobenzoyl)phenethyl acetate | 2.62 mmol, 1 g | C(C)(=O)OCCC1=CC=C(C=C1)C(C1=C(C=CC(=C1)Br)Cl)=O | C17H14BrClO3
reactant | borontrifluoride diethylether | 10.4 mmol, 0.65 mL | B(F)(F)F.C(C)OCC
reactant | triethylsilane | 10.4 mmol, 0.84 mL | C(C)[SiH](CC)CC | C6H16Si
product | 4-(5-bromo-2-chlorobenzyl)phenethyl acetate | yield 65% | C(C)(=O)OCCC1=CC=C(C=C1)CC1=C(C=CC(=C1)Br)Cl | C17H16BrClO2
